US09302989B2
N2-{4-[(cyclopentylacetyl)amino]phenyl}-N5-(2-methoxyethyl)-1,3-dihydro-2H-isoindole-2,5-dicarboxamide
The title compound was prepared as described in Example 1C, substituting 2-methoxyethanamine for 3-phenylpropan-1-amine and 2-({4-[(cyclopentylacetyl)amino]phenyl}carbamoyl)isoindoline-5-carboxylic acid for 4-(isoindoline-2-carboxamido)benzoic acid. 1H NMR (300 MHz, DMSO-d6) δ ppm 9.69 (s, 1H), 8.56-8.49 (m, 1H), 8.31 (s, 1H), 7.84-7.77 (m, 2H), 7.50-7.40 (m, 5H), 4.78 (bs, 4H), 3.50-3.39 (m, 4H), 3.27 (s, 3H), 2.31-2.18 (m, 3H), 1.81-1.68 (m, 2H), 1.66-1.43 (m, 4H), 1.26-1.12 (m, 2H); MS (ESI(+)) m/e 465 (M+H)+.

reactant | 3-phenylpropan-1-amine | C1(=CC=CC=C1)CCCN | C9H13N
reactant | 2-({4-[(cyclopentylacetyl)amino]phenyl}carbamoyl)isoindoline-5-carboxylic acid | C1(CCCC1)CC(=O)NC1=CC=C(C=C1)NC(=O)N1CC2=CC=C(C=C2C1)C(=O)O | C23H25N3O4
reactant | 4-(isoindoline-2-carboxamido)benzoic acid | C1N(CC2=CC=CC=C12)C(=O)NC1=CC=C(C(=O)O)C=C1 | C16H14N2O3
product | N2-{4-[(cyclopentylacetyl)amino]phenyl}-N5-(2-methoxyethyl)-1,3-dihydro-2H-isoindole-2,5-dicarboxamide | C1(CCCC1)CC(=O)NC1=CC=C(C=C1)NC(=O)N1CC2=CC=C(C=C2C1)C(=O)NCCOC | C26H32N4O4
